US06967208B2
3-chloro-4-fluorophenyl hydrazine (5.00 g, 31.14 mmol) and 1-(4-iodophenyl)-4-(trifluoroacetyl)-2,3-piperidinedione (12.8 g, 31.14 mmol) were added together with 120 mL of ethanol and 4 mL of hydrochloric acid (12 M). The mixture was stirred at reflux under N2 for overnight. The reaction was cooled down to rt. The solvents were removed, and the residue was dissolved in EtOAc (200 mL) and washed with water (100 mL×2) and brine (50 mL). It was then dried over Na2SO4 and concentrated. The residue was purified via flash chromatography on silica gel using 4:1 hexane:ethylacetate to give 1-(3-chloro-4-fluorophenyl)-6-[4-iodophenyl]-3-(trifluoromethyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridine-7-one as a brown solid (12.5 g, 75% yield). LRMS (AP+): 536.1 (M+H)+. 1H NMR (CDCl3) δ 7.72 (d, 2H), 7.67-7.64 (m, 1H), 7.49-7.44 (m, 1H), 7.19 (t, 3H), 7.06 (d, 2H), 4.12 (t, 2H), 3.17 (t, 2H).

reactant | 3-chloro-4-fluorophenyl hydrazine | 31.14 mmol, 5.00 g | ClC=1C=C(C=CC1F)NN | C6H6ClFN2
reactant | 1-(4-iodophenyl)-4-(trifluoroacetyl)-2,3-piperidinedione | 31.14 mmol, 12.8 g | IC1=CC=C(C=C1)N1C(C(C(CC1)C(C(F)(F)F)=O)=O)=O | C13H9F3INO3
reactant | ethanol | 120 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 12 M, 4 mL | Cl | ClH
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 1-(3-chloro-4-fluorophenyl)-6-[4-iodophenyl]-3-(trifluoromethyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridine-7-one | 12.5 g, 75% yield | ClC=1C=C(C=CC1F)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)I)=O)C(F)(F)F | C19H11ClF4IN3O
